US06794403B2
7-Butyl-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol
The title compound was prepared in substantially the same manner as described in Example 35, from 7-bromo-5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole, and bromo(butyl)zinc. The desired product was obtained as a white solid, m.p. 125-127° C.; MS m/e 282 (M−H)+.

reactant | 7-bromo-5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)OC)OC | C15H12BrNO3
reactant | bromo(butyl)zinc | Br[Zn]CCCC
product | 7-Butyl-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol | C(CCC)C1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)O)O | C17H17NO3
